US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{3-[(2-hydroxyphenyl)oxy]propyl}-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (30.9 mg, 0.111 mmol) and 2-[(3-bromopropyl)oxy]phenol (47.9 mg, 0.207 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (20.9 mg, 37%). EI-MS m/z 430 (M+) Rt (1.70 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.111 mmol, 30.9 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 2-[(3-bromopropyl)oxy]phenol | 0.207 mmol, 47.9 mg | BrCCCOC1=C(C=CC=C1)O | C9H11BrO2
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(2-hydroxyphenyl)oxy]propyl}-1-azoniabicyclo[2.2.1]heptane bromide | 20.9 mg, 37% | [Br-].OC(C12CC[N+](CC1)(C2)CCCOC2=C(C=CC=C2)O)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H31NO3.BrH/c30-25-14-7-8-15-26(25)32-21-9-18-29-19-16-27(22-29,17-20-29)28(31,23-10-3-1-4-11-23)24-12-5-2-6-13-24;/h1-8,10-15,31H,9,16-22H2;1H
